US09260451B2
Production of 3-(phenylsulfenyl)naphtho[2,3-b]thiophene (Compound 3-5)
At −40° C., a THF solution (5 ml, 5 mmol) of 1 M tetra-n-butyl ammonium fluoride was added to THF (50 ml) and water (0.3 ml) of 3-(phenylsulfenyl)-2-trimethylsilylnaphtho[2,3-b]thiophene (550 mg, 1.5 mmol). After the mixture was stirred for 4 hours at room temperature, the reaction liquid was poured into water (50 ml). The precipitated solid was filtered and washed with ethanol and hexane. Purification was implemented by column chromatography (silica gel, CHCl3, Rf: 0.9), so that a white solid was quantitatively produced.

reactant | THF | 5 mmol, 5 ml | C1CCOC1 | C4H8O
reactant | tetra-n-butyl ammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | 3-(phenylsulfenyl)-2-trimethylsilylnaphtho[2,3-b]thiophene | 1.5 mmol, 550 mg | C1(=CC=CC=C1)SC=1C2=C(SC1[Si](C)(C)C)C=C1C=CC=CC1=C2 | C21H20S2Si
solvent | water | 50 ml | O | H2O
solvent | water | 0.3 ml | O | H2O
product | 3-(phenylsulfenyl)naphtho[2,3-b]thiophene | C1(=CC=CC=C1)SC=1C2=C(SC1)C=C1C=CC=CC1=C2 | C18H12S2
